US08039495B2
A solution of {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-tert-butyl-amino}-acetic acid ethyl ester (11.6 g, 23.3 mmol) in THF (500 mL) was treated with a solution LiOH (2.8 g, 116.7 mmol) in water (500 mL) at room temperature for 12 h. THF was then removed by evaporation. The mixture was then poured into ice and carefully acidified with dilute HCl to pH-1. The precipitate was collected by filtration, washed with water, and dried in vacuum to afford {tert-butyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-amino}-acetic acid as a white solid, 10.6 g (94%). LC-MS (ES) calculated for C27H27F2NO5, 483; found m/z 484 [M+H]+.

reactant | {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-tert-butyl-amino}-acetic acid ethyl ester | 23.3 mmol, 11.6 g | C(C)OC(CN(C(C)(C)C)C(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O)=O | C29H31F2NO5
reactant | LiOH | 116.7 mmol, 2.8 g | [Li+].[OH-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | {tert-butyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-amino}-acetic acid | C(C)(C)(C)N(C(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O)CC(=O)O | C27H27F2NO5
